US04036850
N-(3,4-dichlorophenyl)-N'-(2,3-dibromobutyryl)-urea;
m.p: 196° - 197° C. (from 3,4-dichloroaniline and 2,3-dibromobutyryl isocyanate)

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 2,3-dibromobutyryl isocyanate | BrC(C(=O)N=C=O)C(C)Br | C5H5Br2NO2
product | N-(3,4-dichlorophenyl)-N'-(2,3-dibromobutyryl)-urea | ClC=1C=C(C=CC1Cl)NC(=O)NC(C(C(C)Br)Br)=O | C11H10Br2Cl2N2O2
